US05672609
2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]-3-(4-hydroxyphenyl)-6-phenylpyridine
The 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-3-(4-methoxyphenyl)-6-phenylpyridine as the HCl salt (1.9 g, 3.9 mmol) was slurried with 50 mL of DCE in a screw cap flask, cooled to 0° C., and stirred while the BCl3 (2.7 mL at 0° C., 32 mmol) in 5 mL DCE was added and the reaction flask sealed. After 2 h, TLC (EtOH/ CH2Cl2, 1:4) indicated that starting material remained, so an additional 1.7 mL of BCl3 (20 mmol) was added and reaction mixture stirred for 18 h. The reaction mixture was carefully quenched with 25 mL MeOH at 0° C., poured in 150 mL of aqueous NaHCO3, and extracted with CH2Cl2 (3×100 mL). The CH2Cl2 extracts were combined, washed with brine, dried (Na2SO4), concentrated, and recrystallised from EtOH to give 1.35 g (79 % yield) of product: mp 176°-178° C.; 1H NMR (CDCl3) d 1.86 (bs, 4H, pyrrolidine), 2.73(bs, 4H, pyrrolidine), 2.97-3.01 (t, 2H, J=5 Hz, CH2N), 4.12-4.16 (t, 2H, J=5 Hz, OCH2), 6.64-6.67 (m, 4H, ArH), 6.98-7.01 (d, 2H, J=8 Hz, ArH), 7.38-7.50 (m, 5H, ArH), 7.67 (s, 2H, ArH), 8.10-8.12 (d, 2H, J=8 Hz, ArH); MS(FD) 436 (M+). Anal. Calcd for C29H28N2O2 : C, 79.79; H, 6.46; N, 6.42. Found: C, 80.01; H, 6.55; N, 6.54.

reactant | 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-3-(4-methoxyphenyl)-6-phenylpyridine | N1(CCCC1)CCOC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C30H30N2O2
reactant | HCl | 3.9 mmol, 1.9 g | Cl | ClH
reactant | BCl3 | 32 mmol, 2.7 mL | B(Cl)(Cl)Cl | BCl3
reactant | EtOH CH2Cl2 | CCO.C(Cl)Cl
reactant | BCl3 | 20 mmol, 1.7 mL | B(Cl)(Cl)Cl | BCl3
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]-3-(4-hydroxyphenyl)-6-phenylpyridine | 1.35 g, 79 % yield | N1(CCCC1)CCOC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)O)C1=CC=CC=C1 | C29H28N2O2
